Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Haldol / lithium
 
Attending: ___
 
Chief Complaint:
Altered Mental Status
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ man with a history of polysubstance use, and currently 
homeless who was found down outside in the cold and brought to 
___ and then transferred to ___ ED from ___ for NSG eval. 
  
___ is confused, inattentive and difficult to understand. 
All he can reliable tell this provider ___ "I hit my head" when 
asked further he says "I don't" "I don't" "I don't" and then "I 
have all I need" and "guitar". He mumbles something else about 
"___" than "fuck, no" and then ___ and 
"___" otherwise he is incoherent and then falls 
asleep mid conversation.
    
He arrives with documentation from ___ but there is no link 
within OMR to ___ records with his demographic information. CHA 
records is limited to reports from images and possible alcohol 
intoxication.
     
It is unknown how the patient presented to ___ and it is not 
documented anywhere. ED at ___ thought he may have possible 
alcohol intoxication, CT C-spine revealed C4 and C7 compression 
fractures so he was transferred for NSG evaluation. 
   
In the ED, initial vitals were: 97.5 80 158/86 14 96% RA 
Exam was notable for slurred speech, R and L hand edema, with 
blanching erythema, palpable radial pulses, able to move all 
digits. R and L ___: with blanching erythema in medial thighs, 
non ttp. Palpable DP pulses ___. In ___ J c- collar. Abrasion 
to R forehead. Neuro exam difficult as pt altered, but moving 
all extremities. Labs were notable for negative serum and urine 
tox screen, normal UA, normal chem, slightly elevated LFTs, 
normal CBC. MRI C-Spine revealed chronic C4 and C7 compression 
fractures and severe vertebral canal narrowing at C4-C5 and 
moderate vertebral canal narrowing at C5-C6. Spine surgery was 
consulted who felt the MRI does not show any acute fracture or 
ligamentous injury however it does show significant degenerative 
disease and cervical stenosis and recommend continuing hard 
cervical collar and medical work up of Altered mental status. 
CXR revealed interstitial infiltrates concerning for viral or 
bacterial process. He was started on IV CTX and Azithromycin for 
possible PNA, and admitted to medicine for further work up.
    
On the floor, the patient is dishelved, foul smelling, covered 
in urine, he is incoherent, disoriented, inattentive and then 
falls asleep mid conversation
 
Review of systems: Unable due to mental status

 
Past Medical History:
- Polysubstance abuse
 
Social History:
___
Family History:
Unknown and patient unable to answer questions
 
Physical Exam:
ADMISSION EXAM:  
Vitals:97.5 PO 156 / 74 78 20 95   
Pain Scale: Unable
General: Patient appears dishelved, his clothing is soaked in 
urine, he has a large abrasion on his right forehead. He mumbles 
incoherently and falls asleep mid conversation. Oriented to 
___ only but not to facility, able to say his name but does 
not know date, month or year "50s" "70s"
HEENT: Dry mucous membranes and halitosis
Neck: Neck in ___ hard C-Collar
Lungs: Clear to auscultation bilaterally, moving air well and 
symmetrically, mild wheezing bilaterally 
CV: Regular rate and rhythm, S1 and S2 clear and of good 
quality, no murmurs, rubs or gallops appreciated
Abdomen: soft, non-tender, non-distended, normoactive bowel 
sounds throughout, no rebound or guarding
Ext: Numerous healed small scars in bilateral UE and ___, there 
are evidence of traumatic scarring but also surgical scars of 
ankles and distal ___. There are several open abrasions as well.
Neuro: Somnolent, minimally interactive, inattentive, moving all 
extremities purposefully, +clonus bilat ankles, hyper reflexive 
3+ throughout

DISCHARGE EXAM:
Vitals: T 98.3 HR 80 BP 161/82 RR 18 O2 sat 97% RA
General: Disheveled man, appears older than stated age, smelling 
of urine, alert, sitting up in bed, no acute distress  
HEENT: Abrasion on the right forehead, appears scabbed at this 
time. Sclera anicteric, dry mucous membranes, oropharynx clear
Neck: soft collar in place
CV: Regular rate and rhythm, no murmurs
Lungs: clear bilaterally, no rhonchi, wheezing or crackles 
appreciated  
Abdomen: Soft, non-tender, non-distended, bowel sounds present
GU: No foley  
Ext: Warm, well perfused, 2+ pulses, no edema, scarring is 
stable from admission
Neuro: alert, oriented x 3 (self, ___, ___, CNII-XII 
intact, patient cannot perform tandem gait

 
Pertinent Results:
Labs:
___ 11:28AM BLOOD WBC-5.5 RBC-4.78 Hgb-13.7 Hct-41.5 MCV-87 
MCH-28.7 MCHC-33.0 RDW-14.3 RDWSD-45.3 Plt ___
___ 11:28AM BLOOD Neuts-43.6 ___ Monos-19.6* 
Eos-2.0 Baso-0.5 Im ___ AbsNeut-2.40 AbsLymp-1.85 
AbsMono-1.08* AbsEos-0.11 AbsBaso-0.03
___ 11:28AM BLOOD ___ PTT-33.4 ___
___ 11:28AM BLOOD Glucose-92 UreaN-16 Creat-0.7 Na-138 
K-4.1 Cl-101 HCO3-25 AnGap-16
___ 11:28AM BLOOD ALT-55* AST-73* CK(CPK)-176 AlkPhos-113 
TotBili-0.6
___ 11:28AM BLOOD Albumin-4.1
___ 11:28AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 11:35AM BLOOD Lactate-1.2
___ 11:28AM BLOOD TSH-1.2
 
Imaging:
- MRI C-Spine ___
IMPRESSION:
1. No signs of acute of bony or ligamentous injury.
2. Moderate-to-severe spinal stenosis at C4-5 moderate spinal 
stenosis at C3-4 and mild to moderate spinal stenosis at C5-6 
levels with deformity of the spinal cord.
3. No abnormal signal within the spinal cord.

- CXR ___:
1. Findings suggest viral or atypical bacterial infection. 
2. Prominent hila suggestive of enlarged pulmonary arteries 
related to pulmonary hypertension or lymphadenopathy. 
3. Chronic distal right clavicle fracture 
     
- KUB ___: 
1. Status post ORIF of a right femoral neck fracture transfixed 
by a gamma nail and intramedullary rod.  No additional 
radiopaque foreign bodies identified. 
2. Nonspecific bowel gas pattern. 
  
 
Brief Hospital Course:
Mr. ___ is a ___ man with a history of polysubstance use, 
and currently homeless who was found down outside in the cold 
and brought to ___ and then transferred to ___ ED from ___ for 
NSG eval for chronic cervical ceompression fractures and found 
to have encephalopathy of unclear etiology but most likely due 
to substance abuse/intoxication. 
   
# Encephalopathy:
Patient initially found to be somnolent, inattentive, 
disoriented. Serum and urine tox screens were negative. 
Metabolic workup including TSH, RPP, B12 were also negative. 
Osmolar gap was also negative. Patient stating he abuses 
alcohol, benzodiazepines, opiates, and cocaine. Mental status 
significant improved within 24 hours and patient then demanding 
oxycodone and diazepam. Thus, initial encephalopathy thought to 
be due to intoxication from unknown substance. 

# Polysubstance abuse
Patient unable to state how much alcohol he drinks, but makes 
motions of a pint bottle, also states he drinks beer as well. He 
also endorsed using oxycodone ___ times a day, but ___ shows 
he has not been prescribed oxycodone since ___. He also 
asked for 10mg of valium, but has not been prescribed valium 
since ___ at 2mg dose. He adamantly denies buying 
medications on the streets, however. Confirmed with Dr. ___, 
___ orthopedics, that patient has not received opiates from 
their office since ___ and there is no plan to continue 
them for chronic pain. Dr. ___, prescriber of recent 
Valium, unable to be reached. Valium 2mg TID:prn was continued. 
Patient monitored on CIWA after mental status improved and did 
not score above 10. He was discharged without a prescription for 
opiates or benzodiazepines. Social work consulted and aided 
patient with resources. 

# Cervical Spine stenosis:
Initially there was concern for C-spine acute fracture for which 
he was placed in a C-Collar and transferred for spine 
evaluation. MRI C-Spine in the ED revealed chronic C4 and C7 
compression fractures and severe vertebral canal narrowing at 
C4-C5 and moderate vertebral canal narrowing at C5-C6. Spine 
surgery was consulted who felt the MRI does not show any acute 
fracture or ligamentous injury however because of severe 
degenerative disease and cervical stenosis recommend continuing 
hard cervical collar. He was transitioned to a soft collar and 
recommended to follow-up with neurosurgery in clinic in 2 weeks.
  
# Interstitial opacifications on CXR:
There is no leukocytosis and he has not had any fevers, he is 
not coughing during exam and there are no rales to auscultation. 
CXR findings are also diffuse and bilaterally so seems unlikely 
to be a bacterial process. Favoring aspiration pneumonitis 
versus interstitial process from either chronic aspirations or 
smoking. Patient received  IV CTX and Azithromycin in the ED but 
antibiotics were not continued and patient had no further signs 
or symptoms of infection. 
 
# Clavicular fracture
# Old C-spine fractures
Both chronic and healed based on imaging, exam is notable for 
many prior healed traumatic lesions. Given history of alcohol 
abuse and objective evidence of several old fractures it seems 
he has suffered multiple prior traumas. ___ evaluated and 
recommended discharge home with a cane. 

# Homelessness
Patient currently resides in ___ and receives $1100 a 
month and has a rep payee who issues him $200 a week. Social 
work aided patient in obtaining a ride to the train station and 
petty cash to purchase a ticket to return to ___. He 
resides in a shelter there and has other supports in that city. 

# Transaminitis
Mild. Likely related to alcohol abuse although patient's 
hepatitis status is unknown. Recommend outpatient follow-up.

> 30 minutes were spent on discharge care, planning, and 
coordination.

Transitional Issues:
- CHA CT C-Spine revealed a 5.5 LUL pulmonary nodule, will need 
follow up in ___ months
- should f/u in ___ clinic in 2 weeks for severe 
cervical stenosis
- trend LFTs and work-up as needed as outpatient.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. QUEtiapine Fumarate 100 mg PO Q6H:PRN anxiety 
2. TraZODone 50 mg PO QHS:PRN insomnia 
3. Diazepam 2 mg PO TID:PRN anxiety 

 
Discharge Medications:
1.  Diazepam 2 mg PO TID:PRN anxiety  
2.  QUEtiapine Fumarate 100 mg PO Q6H:PRN anxiety  
3.  TraZODone 50 mg PO QHS:PRN insomnia  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
fall
chronic cervical compression fractures

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___,

It was a pleasure caring for you during your stay at ___ 
___. You were admitted after a fall. There 
were abnormalities seen on your spine imaging. You should 
continue to wear a soft color until you are evaluated by a spine 
surgeon in clinic. 

We strongly recommend that you stop drinking. If you need any 
more oxycodone or valium, please see your doctors, Dr. ___ 
___ Dr. ___. 

Take care,
Your ___ Team
 
Followup Instructions:
___